US08497265B2
To a solution of 2-(4-((3-chloropyrazin-2-yl)oxy)piperidin-1-yl)quinoline (see PREPARATION P2.1; 340 mg, 1.0 mmol), 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine (see PREPARATION P12.1; 219 mg, 1.0 mmol) and K3PO4 (424 mg, 2.0 mmol) in 1,4-dioxane (10 mL) and H2O (2 mL) was added Pd(dppf)Cl2 (73 mg, 0.1 mmol) then the reaction mixture was stirred at 110° C. under N2 atmosphere overnight. The reaction mixture was filtered through CELITE® and washed with CH2Cl2 (30 mL). The filtrate was concentrated and the crude product was purified by silica gel column to give 2-(4-((3-(2-methylpyridin-4-yl)pyrazin-2-yl)oxy)piperidin-1-yl)quinoline (200 mg, 0.50 mmol, yield 60%). ESI-MS (M+1): 398 calc. for C24H23N5O 397.

reactant | 2-(4-((3-chloropyrazin-2-yl)oxy)piperidin-1-yl)quinoline | 1.0 mmol, 340 mg | ClC=1C(=NC=CN1)OC1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C18H17ClN4O
reactant | 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | 1.0 mmol, 219 mg | CC=1C=NC=CC1B1OC(C(O1)(C)C)(C)C | C12H18BNO2
reactant | K3PO4 | 2.0 mmol, 424 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 73 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-((3-(2-methylpyridin-4-yl)pyrazin-2-yl)oxy)piperidin-1-yl)quinoline | 0.50 mmol, 200 mg, yield 60% | CC1=NC=CC(=C1)C=1C(=NC=CN1)OC1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C24H23N5O
